US07223788B2
5-(2-Isobutyrylamino-4-methylphenyl)furan-2-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)phenyl]amide
5-(2-Amino-4-methylphenyl)furan-2-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)-phenyl]amide was reacted with isobutyryl chloride by method Q. This resulted in the product with the molecular weight of 474.26 (C28H34N4O3); MS (ESI): 475 (M+H+).

reactant | 5-(2-Amino-4-methylphenyl)furan-2-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)-phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC(=CC1)C1=C(C=C(C=C1)C)N)C | C24H28N4O2
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 5-(2-Isobutyrylamino-4-methylphenyl)furan-2-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC(=CC1)C1=C(C=C(C=C1)C)NC(C(C)C)=O)C | C28H34N4O3
